US08115017B2
(1) Preparation of tetrahydro-2H-pyran-2-yl 2,3,4,6-tetra-O-acetyl-5-thio-D-glucopyranose
To a solution of 2,3,4,6-tetra-O-acetyl-5-thio-D-glucopyranose (2.0 g, 5.49 mmoL) in chloroform (40 mL), 3,4-dihydro-2H-pyran (1.5 mL, 16.5 mmoL) and p-toluenesulfonic acid monohydrate (104 mg, 0.549 mmoL) were added and stirred at room temperature for 1 hour. After addition of saturated aqueous sodium bicarbonate, the reaction mixture was extracted with chloroform, and the organic layer was washed with saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. After filtering off the desiccant, the solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the titled compound (2.56 g) as a light-yellow amorphous substance.

reactant | 2,3,4,6-tetra-O-acetyl-5-thio-D-glucopyranose | 2.0 g | C(C)(=O)O[C@H]1C(O)S[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O9S
reactant | p-toluenesulfonic acid monohydrate | 104 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | 3,4-dihydro-2H-pyran | 1.5 mL | O1CCCC=C1 | C5H8O
product | tetrahydro-2H-pyran-2-yl 2,3,4,6-tetra-O-acetyl-5-thio-D-glucopyranose | 2.56 g | O1C(CCCC1)C1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](S1)COC(C)=O | C19H28O10S
